US04918215
The ethyl 4-chloroformylcinnamate can be prepared as follows: 10.05 g (50 mmols) of 4-bromobenzoic acid, 6.25 g (62.5 mmols) of ethyl acrylate, 12.6 g (125 mmols) of triethylamine, 0.1122 g (0.5 mmol) of palladium acetate and 0.608 g (2 mmols) of tri-o-tolylphosphine in 20 ml of toluene are boiled under reflux for 1.5 hours. The reaction mixture is extracted by shaking with 200 ml of 2N hydrochloric acid, and the crude product is filtered off and recrystallised from toluene. 10.1 g (92% of theory) of ethyl 4-carboxycinnamate are obtained in the form of white crystals; melting point 196°-197° C.

reactant | ethyl 4-chloroformylcinnamate | ClC(=O)C1=CC=C(C=CC(=O)OCC)C=C1 | C12H11ClO3
reactant | 4-bromobenzoic acid | 50 mmols, 10.05 g | BrC1=CC=C(C(=O)O)C=C1 | C7H5BrO2
reactant | ethyl acrylate | 62.5 mmols, 6.25 g | C(C=C)(=O)OCC | C5H8O2
reactant | triethylamine | 125 mmols, 12.6 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.5 mmol, 0.1122 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | tri-o-tolylphosphine | 2 mmols, 0.608 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
product | ethyl 4-carboxycinnamate | 10.1 g, 92% | C(=O)(O)C1=CC=C(C=CC(=O)OCC)C=C1 | C12H12O4
